US05411989
N-(trans-4-nitroxycyclohexyl)-succinic acid diamide
N-(trans-4-nitroxycyclohexylmethyl)-N',N'-dimethylsuccinic acid diamide from N-(trans-4-nitroxycyclohexylmethyl)-succinic acid monoamide and dimethylamine melting point: 70°-71° C. (ether), yield: 40%

reactant | N-(trans-4-nitroxycyclohexylmethyl)-N',N'-dimethylsuccinic acid diamide | O([N+](=O)[O-])[C@@H]1CC[C@H](CC1)CNC(CCC(=O)N(C)C)=O | C13H23N3O5
reactant | N-(trans-4-nitroxycyclohexylmethyl)-succinic acid monoamide | O([N+](=O)[O-])[C@@H]1CC[C@H](CC1)CNC(CCC(=O)O)=O | C11H18N2O6
reactant | dimethylamine | CNC | C2H7N
product | N-(trans-4-nitroxycyclohexyl)-succinic acid diamide | yield: 40% | O([N+](=O)[O-])[C@@H]1CC[C@H](CC1)NC(CCC(=O)N)=O | C10H17N3O5
